US06627651B1
To a solution of 7-hydroxy-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid (856 mg) in methanol (10 ml) was added sulfuric acid (0.1 ml), and the resulting mixture was heated at reflux for 23 hours. After concentration under reduced pressure, the reaction mixture was mixed with water and was then extracted with ethyl acetate. The organic layer was washed with an aqueous saturated solution of sodium chloride and was dried with magnesium sulfate. After concentration under reduced pressure, the precipitated crystals were collected by filtration. The crystals were washed with diisopropyl ether to obtain methyl 7-hydroxy-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (848 mg) as light yellow crystals.

reactant | 7-hydroxy-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid | 856 mg | OC=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)O)C1 | C11H10O5S
reactant | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 10 ml | CO | CH4O
product | methyl 7-hydroxy-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 848 mg | OC=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C12H12O5S
